US07960552B2
A solution of cyclopentanol (0.44 mL, 4.8 mmol), in THF (10 mL), was stirred at 0° C. as sodium hydride 60% oil dispersion (192 mg, 4.8 mmol) was added. The solution was allowed to stir for 30 minutes. A solution of methyl 3-(bromomethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (500 mg, 1.91 mmol), in THF (5 mL) was then added and the resulting solution was allowed to warm to room temperature and stir for 3 hours. The solution was then partitioned between brine and ethyl acetate. The organic layer was dried with MgSO4, filtered and concentrated. The residue purified by chromatography (silica gel, hexane to 1:4 ethyl acetate:hexanes). Fractions containing the product were combined and concentrated to yield cyclopentyl 3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate (94 mg, 15%). 1H NMR (400 MHz, DMSO-d6): δ 5.29-5.26 (m, 1H), 4.54 (s, 2H), 3.98 (m, 1H), 3.64 (septet, 7 Hz, 1H), 1.85 (m, 2H), 1.72-1.56 (m, 12H), 1.47-1.40 (m, 2H), 1.25 (d, J=7 Hz, 6H). ESI-LCMS m/z 322 (M+H)+.

reactant | cyclopentanol | 4.8 mmol, 0.44 mL | C1(CCCC1)O | C5H10O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 3-(bromomethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 1.91 mmol, 500 mg | BrCC1=NOC(=C1C(=O)OC)C(C)C | C9H12BrNO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | cyclopentyl 3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate | 94 mg, 15% | C1(CCCC1)OCC1=NOC(=C1C(=O)OC1CCCC1)C(C)C | C18H27NO4
